US07851634B2
39 2-Iodo-5-methoxy-4-(4-methoxy-butyl)-pyridine
To a stirred solution of 60 mmol NaOH in 50 ml N,N-dimethyl formamide is progressively added 50 mmol 2,6-diiodo-4-(4-methoxy-butyl)-pyridin-3-ol. The reaction mixture is stirred for 30 minutes and then cooled to 0° C. 60 mmol methyl iodide are added and the mixture is stirred for 15 minutes at room temperature. Water and ethyl acetate are added to the mixture, the layers are separated and the aqueous layer is extracted with ethyl acetate (3×). The combined organic layers are dried over sodium sulphate, filtered and concentrated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60 F) and identified based on its Rf value.

reactant | NaOH | 60 mmol | [OH-].[Na+]
reactant | 2,6-diiodo-4-(4-methoxy-butyl)-pyridin-3-ol | 50 mmol | IC1=NC(=CC(=C1O)CCCCOC)I | C10H13I2NO2
reactant | methyl iodide | 60 mmol | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Iodo-5-methoxy-4-(4-methoxy-butyl)-pyridine | IC1=NC=C(C(=C1)CCCCOC)OC | C11H16INO2
